US20010047089A1
By the methods of the present invention, desmethyl-azithromycin is dissolved in acetone. Formaldehyde and formic acid are added to the solution and the clear solution is heated to reflux (˜58° C.). The mixture is maintained under reflux for about 3 hours then cooled to less than about 40° C. Water is added and the acetone is separated from the reaction mixture by distillation under low vacuum (˜300 mbar). The distillation is stopped when the temperature of the liquid phase reaches ˜40° C./300 mbar. Activated carbon SXI is added and the suspension is mixed for about 1 hour. The activated carbon is then separated from the solution by filtration on a Büchner filter containing Hyflow. The filter cake is washed with water. The pH is adjusted with an NaOH to about 10-10.5 to induce precipitation of azithromycin. The azithromycin suspension is stirred for about 1 hour. The crude azithromycin crude is separated by filtration and washed. Azithromycin is isolated upon drying the filtrate 40° C. in a vacuum oven. Preferably the azithromycin is dried for at least 24 hours. No impurities were detected that were derivatives of azithromycin in the isolated azithromycin Azithromycin dihydrate prepared in accordance with the present invention is suitable formulation and administration for the treatment of susceptible bacterial infections in humans according to the methods and in the amounts set forth in U.S. Pat. No. 4,474,768, cited above.

reactant | desmethyl-azithromycin | CC[C@@H]1[C@@]([C@@H]([C@H](NC[C@@H](C[C@@]([C@@H]([C@H]([C@@H]([C@H](C(=O)O1)C)O[C@H]2C[C@@]([C@H]([C@@H](O2)C)O)(C)OC)C)O[C@H]3[C@@H]([C@H](C[C@H](O3)C)N(C)C)O)(C)O)C)C)O)(C)O | C37H70N2O12
reactant | Formaldehyde | C=O | CH2O
reactant | formic acid | C(=O)O | CH2O2
reactant | Water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | Azithromycin | CC[C@@H]1[C@@]([C@@H]([C@H](N(C[C@@H](C[C@@]([C@@H]([C@H]([C@@H]([C@H](C(=O)O1)C)O[C@H]2C[C@@]([C@H]([C@@H](O2)C)O)(C)OC)C)O[C@H]3[C@@H]([C@H](C[C@H](O3)C)N(C)C)O)(C)O)C)C)C)O)(C)O | C38H72N2O12
